US08614327B2
A suspension of 6-bromo-3-nitro-2-(trifluoromethyl)pyridine (400 mg, 1.5 mmoL), (S)-2-methylpyrrolidine tosylate salt (381 mg, 1.5 mmoL) and K2CO3 (620 mg, 4.5 mmoL) in H2O (4 mL) was heated at 140° C. under microwave irradiation for 30 minutes. The solution was extracted with EtOAc (50 mL×3) and the combined organic layer was washed with brine, dried over anhydrous Na2SO4 and purified by silica gel column chromatography to afford (S)-6-(2-methylpyrrolidin-1-yl)-3-nitro-2-(trifluoromethyl)pyridine (350 mg, 88% yield). 1H NMR (400 MHz, CDCl3) δ 8.14 (d, J=9.2 Hz, 1H), 6.44 (d, J=8.4 Hz, 1H), 4.55-4.42 (m, 1H), 4.02-3.30 (m, 2H), 2.30-2.00 (m, 3H), 1.81 (brs, 1H), 1.27 (d, J=6.4 Hz, 3H).

reactant | 6-bromo-3-nitro-2-(trifluoromethyl)pyridine | 400 mg | BrC1=CC=C(C(=N1)C(F)(F)F)[N+](=O)[O-] | C6H2BrF3N2O2
reactant | (S)-2-methylpyrrolidine tosylate salt | 381 mg | S(=O)(=O)(O)C1=CC=C(C)C=C1.C[C@@H]1NCCC1
reactant | K2CO3 | 620 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | H2O | 4 mL | O | H2O
product | (S)-6-(2-methylpyrrolidin-1-yl)-3-nitro-2-(trifluoromethyl)pyridine | 350 mg, 88% yield | C[C@@H]1N(CCC1)C1=CC=C(C(=N1)C(F)(F)F)[N+](=O)[O-] | C11H12F3N3O2
